US05324747
A mixture of 2.09 g of 5-nitro-1,3-benzenedicarboxylic acid ditetradecyl ester and 0.5 g of 10% palladium on carbon in 80 ml of ethyl acetate and 25 ml of THF was shaken under an initial hydrogen pressure of 53 psi for 17 hours. The catalyst was removed by filtration and the filtrate was concentrated to give 1.96 g of pure 5-amino-1,3-benzenedicarboxylic acid ditetradecyl ester, mp 74°-75°.

reactant | 5-nitro-1,3-benzenedicarboxylic acid ditetradecyl ester | 2.09 g | C(CCCCCCCCCCCCC)OC(=O)C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)OCCCCCCCCCCCCCC | C36H61NO6
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 5-amino-1,3-benzenedicarboxylic acid ditetradecyl ester | 1.96 g | C(CCCCCCCCCCCCC)OC(=O)C1=CC(=CC(=C1)N)C(=O)OCCCCCCCCCCCCCC | C36H63NO4
